US07863271B2
A mixture of methyl 2-chlorobenzoxazole-4-carboxylate (970 mg, 4.58 mmol) and (3S,5S)-1-benzyl-3,5-dimethylpiperazin-2-one (1.00 g, 4.58 mmol) in DMF (20 mL), was stirred in a 35° C. oil bath. After 16 h, the reaction mixture was heated to 55° C. After 3 h, potassium carbonate (630 mg, 4.58 mmol) was added. The reaction mixture was stirred for 2 h at 55° C. and then at ambient temperature for 17 h. The reaction mixture was diluted with H2O (50 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were washed with 0.5 N HCl (25 mL), H2O (25 mL), brine (25 mL), dried (Na2SO4), and concentrated under reduced pressure. Purification by chromatography (silica gel, 10 to 80% EtOAc in hexanes) gave methyl 2-((2S,6S)-4-benzyl-2,6-dimethyl-3-oxopiperazine-1-yl)benzoxazole-4-carboxylate (1.08 g, 60%). 1H NMR consistent.

reactant | methyl 2-chlorobenzoxazole-4-carboxylate | 4.58 mmol, 970 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
reactant | (3S,5S)-1-benzyl-3,5-dimethylpiperazin-2-one | 4.58 mmol, 1.00 g | C(C1=CC=CC=C1)N1C([C@@H](N[C@H](C1)C)C)=O | C13H18N2O
reactant | potassium carbonate | 4.58 mmol, 630 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
product | methyl 2-((2S,6S)-4-benzyl-2,6-dimethyl-3-oxopiperazine-1-yl)benzoxazole-4-carboxylate | 1.08 g, 60% | C(C1=CC=CC=C1)N1C([C@@H](N([C@H](C1)C)C=1OC=2C(N1)=C(C=CC2)C(=O)OC)C)=O | C22H23N3O4
